US06936625B2
Preparation of Amlodipine Camsylate 1
12.25 g (0.03 mol) of amlodipine (Hanmi Pharm. Co. Ltd.) was dissolved in 50 ml of methanol, cooled to 10° C., and a solution of 7.8 g (0.336 mol) of (1S)-(+)-10-camphor sulfonic acid (Aldrich) in 19.5 ml of methanol was gradually added thereto. After the reaction mixture was stirred at room temperature for 2 hours, the solid formed compound was filtered, washed with 25 ml of methanol, and dried to obtain 16.7 g (yield: 86.8%) of the title compound in the form of a white crystal.

reactant | amlodipine | 0.03 mol, 12.25 g | CCOC(=O)C1=C(NC(=C(C1C=2C=CC=CC2Cl)C(=O)OC)C)COCCN | C20H25ClN2O5
reactant | (1S)-(+)-10-camphor sulfonic acid | 0.336 mol, 7.8 g | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 19.5 ml | CO | CH4O
product | Amlodipine Camsylate | 16.7 g, yield: 86.8% | CCOC(=O)C1=C(NC(=C(C1C2=CC=CC=C2Cl)C(=O)OC)C)COCCN.CC1([C@@H]2CC[C@]1(C(=O)C2)CS(=O)(=O)O)C | InChI=1S/C20H25ClN2O5.C10H16O4S/c1-4-28-20(25)18-15(11-27-10-9-22)23-12(2)16(19(24)26-3)17(18)13-7-5-6-8-14(13)21;1-9(2)7-3-4-10(9,8(11)5-7)6-15(12,13)14/h5-8,17,23H,4,9-11,22H2,1-3H3;7H,3-6H2,1-2H3,(H,12,13,14)/t;7-,10-/m.1/s1
